US07741333B2
Preparation of 5-amino-1,1-dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophene-4-carboxylic acid
1.5 g (6.32 mmol) of 3,3-dioxo-1,2,3,6-tetrahydro-3λ6-thieno[3,2-e]indole-7,8-dione were introduced into a 10 ml three-neck round-bottom flask and dissolved in 6.5 ml of 1M (207.2 mmol) sodium hydroxide solution. 1.5 ml (1.32 mmol) of a 30% strength hydrogen peroxide solution were slowly added dropwise over the course of 30 minutes. The internal temperature during the addition was kept between 30-40° C. despite the exothermic reaction. After the addition was complete, the mixture was stirred at 40° C. for 1.5 h. The mixture was then cooled to RT and, after addition to a little water (about 7 ml), acidified with a 10% strength HCl to pH 1, and the precipitated solid was filtered off with suction. The latter was washed successively with water and diethyl ether and dried in vacuo overnight. 870 mg of the desired compound were obtained.

reactant | 3,3-dioxo-1,2,3,6-tetrahydro-3λ6-thieno[3,2-e]indole-7,8-dione | 6.32 mmol, 1.5 g | O=S1(CCC2=C3C(C(NC3=CC=C21)=O)=O)=O | C10H7NO4S
reactant | sodium hydroxide | 207.2 mmol, 1M | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | HCl | Cl | ClH
solvent | water | about 7 ml | O | H2O
product | 5-amino-1,1-dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophene-4-carboxylic acid | 870 mg | NC1=C(C2=C(S(CC2)(=O)=O)C=C1)C(=O)O | C9H9NO4S
